US04399300
20 g of Co2 (CO)8 in 2.5 liters of isopropanol and 546 g (4 moles) of chloroacetic acid isopropyl ester are placed in a pressure vessel of a capacity of 18 liters, as in Example 1. At 55° C., and a pressure of 5 bars of CO, a 2.93% solution of sodium hydroxide in isopropanol is pumped into the vessel over a period of 3 hours, maintaining a pH of 7.0. At a transformation of 82%, 615 g of malonic acid diisopropyl ester (92% yield) is obtained after the usual processing. 98 g of chloroacetic acid isopropyl ester is recovered.

reactant | chloroacetic acid isopropyl ester | 4 moles, 546 g | C(C)(C)OC(CCl)=O | C5H9ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 2.5 liters | C(C)(C)O | C3H8O
product | malonic acid diisopropyl ester | 615 g, 92% yield | C(C)(C)OC(CC(=O)OC(C)C)=O | C9H16O4
